US04596815
28.4 g (0.1 mol) of 2-bromoacetyl-5-bromothiophene are heated under reflux with 19.3 g (0.15 mol) of 4-chlorophenol and 27.6 g (0.2 mol) of potassium carbonate in 200 ml of ketone for 3 hours, while stirring. The mixture is then poured into water, and the ether-ketone is extracted with methylene chloride. The organic phase is washed with dilute sodium hydroxide solution and then with water, and is dried over magnesium sulphate. After the organic phase has been evaporated down, the residue is recrystallized from ethanol. 17.3 g (52% of theory) of 2-bromo-thien-5-yl 4-chlorophenoxymethyl ketone of melting point 128°-130° C. are obtained.

reactant | 2-bromoacetyl-5-bromothiophene | 0.1 mol, 28.4 g | BrCC(=O)C=1SC(=CC1)Br | C6H4Br2OS
reactant | 4-chlorophenol | 0.15 mol, 19.3 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-bromo-thien-5-yl 4-chlorophenoxymethyl ketone | 17.3 g, 52% | ClC1=CC=C(OCC(=O)C2=CC=C(S2)Br)C=C1 | C12H8BrClO2S
